US09120761B2
(d) tert-Butyl 4-(4-amino-3-ethylphenyl)piperidine-1-carboxylate (I40)
tert-Butyl 4-(4-(((benzyloxy)carbonyl)amino)-3-ethylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate (I39) (0.500 g, 1.14 mmol) was dissolved in ethanol (20 mL), and a slurry of 10% Pd/C (0.25 g) in ethanol (2 mL) was added. The mixture was stirred under hydrogen for 18 hours, then filtered through celite, washing the celite with ethanol (30 mL). The combined filtrates were evaporated, and chromatography (12 g silica cartridge, 0-80% ethyl acetate/petroleum benzine 40-60° C.) gave the title compound (I40) (0.212 g, 61% yield) as a pink syrup; 1H NMR (400 MHz, CDCl3) δ 6.90 (d, J=2.0 Hz, 1H), 6.87 (dd, J=8.0, 2.1 Hz, 1H), 6.63 (d, J=8.0 Hz, 1H), 4.21 (s, 2H), 3.55 (s, 2H), 2.78 (t, J=12.2 Hz, 2H), 2.59-2.46 (m, 3H), 1.78 (d, J=13.2 Hz, 2H), 1.66-1.53 (m, overlaps with water), 1.48 (s, 9H), 1.25 (t, J=7.5 Hz, 3H). LCMS Method C: rt 5.33 min; m/z 249.2 [M-tBu+2H]+, 205.2 [M-Boc+2H]+.

reactant | tert-Butyl 4-(4-(((benzyloxy)carbonyl)amino)-3-ethylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.14 mmol, 0.500 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)CC | C26H32N2O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | tert-Butyl 4-(4-amino-3-ethylphenyl)piperidine-1-carboxylate | 61% yield | NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)CC | C18H28N2O2
